* C:\Users\owenr\Documents\EE251\Broadband Owen.asc
V2 N004 0 SINE() AC 0.12
XU1 N003 N006 N007 X2SC2753
R1 N006 0 750
R2 N002 N006 550
R3 N003 N002 2750
C1 N003 N002 1
C2 vout N003 1µ
C3 N006 N005 1µ
R5 N005 N004 50
R6 0 vout 500
R7 0 N007 1.5
V1 N001 0 10
R4 N001 N003 500
.ac dec 1000 30k 400meg
.lib C:\Users\owenr\Documents\EE251\2SC2753.lib
.backanno
.end
