* C:\Users\owenr\Documents\EE251\Broadband Owen.asc
V2 N004 0 SINE() AC 0.12
XU1 N007 N006 N008 X2SC2753
R1 N006 0 750
R2 N002 N006 800
R3 N003 N002 2750
C1 N003 N002 100n
C2 vout N003 300n
C3 N006 N005 300n
R5 N005 N004 50
R6 0 vout 50
R7 0 N008 1
V1 N001 0 10
R4 N001 N003 250
R8 N003 N007 .0001
.ac dec 1000 30k 500meg
.lib C:\Users\owenr\Documents\EE251\2SC2753.lib
.backanno
.end
